US05177096
(v) (E)-1-[2-n-butyl-1-{(2-chlorophenyl)methyl}-4-hydroxymethyl-1H-imidazol-5-yl]-2-(1H-tetrazol-5-yl)-3-(2-thienyl)-1-propene
The title compound is prepared by reacting (E)-1-[2-n-butyl-1-{(2-chlorophenyl)methyl}-4-(t-butyldimethylsilyoxy)methyl-1H-imidazol-5-yl)-2-(1H-tetrazol-5-yl]-3-(2-thienyl)-1-propene with dilute hydrochloric acid.

reactant | (E)-1-[2-n-butyl-1-{(2-chlorophenyl)methyl}-4-(t-butyldimethylsilyoxy)methyl-1H-imidazol-5-yl)-2-(1H-tetrazol-5-yl]-3-(2-thienyl)-1-propene | C(CCC)C=1N(C(=C(N1)CO[Si](C)(C)C(C)(C)C)\C=C(/CC=1SC=CC1)\C1=NN=NN1)CC1=C(C=CC=C1)Cl | C29H39ClN6OSSi
reactant | hydrochloric acid | Cl | ClH
product | (E)-1-[2-n-butyl-1-{(2-chlorophenyl)methyl}-4-hydroxymethyl-1H-imidazol-5-yl]-2-(1H-tetrazol-5-yl)-3-(2-thienyl)-1-propene | C(CCC)C=1N(C(=C(N1)CO)\C=C(/CC=1SC=CC1)\C1=NN=NN1)CC1=C(C=CC=C1)Cl | C23H25ClN6OS
